US07595426B2
Palladium on carbon (10%, 410 mg), 100 g of water, 21.8 g of 1,3,5-trichloro-2,4,6-trifluorobenzene and 32.9 g of sodium acetate (4.5 equivalents) were placed in a pressure vessel. After flushing with nitrogen, the pressure vessel was heated to 140° C. and pressurized with 12 bar of hydrogen. A hydrogen pressure of 12 bar was maintained at 140° C. for about 12 hours while stirring vigorously. After cooling to 20-25° C., the pressure vessel was depressurized. The two-phase reaction solution was filtered and the phases were then separated. This gave a yield of 88.2% of 1,3,5-trifluorobenzene.

reactant | 1,3,5-trichloro-2,4,6-trifluorobenzene | 21.8 g | ClC1=C(C(=C(C(=C1F)Cl)F)Cl)F | C6Cl3F3
reactant | sodium acetate | 32.9 g, 4.5 equivalents | C(C)(=O)[O-].[Na+]
catalyst | Palladium on carbon | 410 mg | [Pd] | Pd
solvent | water | 100 g | O | H2O
product | 1,3,5-trifluorobenzene | yield of 88.2% | FC1=CC(=CC(=C1)F)F | C6H3F3
